US08466289B2
Synthesis of Intermediate 1-Benzyl-2-nitromethylene-imidazolidine (I-1c)
Ethanol (200 mL) was added to a solution of 1,1-bis-methylsulfanyl-2-nitro-ethene (14.5 g, 0.0878 mol) and N1-benzyl-ethane-1,2-diamine (12 g, 0.080 mol). The resulting mixture was heated to reflux for 2 hours. The reaction mixture was monitored by TLC (10% MeOH in CHCl3). The reaction mixture was concentrated and the concentrate was dissolved in ethylacetate. The precipitate formed was collected and washed with ethylacetate to afford 13 g of the product (74.7% yield).

reactant | Ethanol | 200 mL | C(C)O | C2H6O
reactant | 1,1-bis-methylsulfanyl-2-nitro-ethene | 0.0878 mol, 14.5 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
reactant | N1-benzyl-ethane-1,2-diamine | 0.080 mol, 12 g | C(C1=CC=CC=C1)NCCN | C9H14N2
reactant | MeOH | CO | CH4O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 1-Benzyl-2-nitromethylene-imidazolidine | 13 g, 74.7% yield | C(C1=CC=CC=C1)N1C(NCC1)=C[N+](=O)[O-] | C11H13N3O2
